US08377970B2
N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-2-(pyridin-2-yl)acetamide hydrochloride
Following the general procedure-1, N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-2-(pyridin-2-yl)acetamide (150 mg) was prepared from 2-(pyridin-2-yl)acetic acid (97 mg, 0.56 mmol) and intermediate 34 (150 mg, 0.47 mmol) as a white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (25 mg) as a white solid. M.P.: 169-171° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.03 (s, 1H), 8.75 (d, J 3.9, 1H), 8.29-8.20 (m, 1H), 8.88 (d, J 12.6, 1H), 7.79 (d, J 7.4, 1H), 7.73-7.69 (m, 1H), 7.67 (t, J 8.7, 1H), 7.51 (d, J 8.6, 1H), 4.17 (s, 2H), 1.80-1.70 (m, 1H), 0.90-0.80 (m, 2H), 0.72-0.60 (m, 2H). MS (m/z): 439.15 [M+H—HCl]+.

reactant | N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-2-(pyridin-2-yl)acetamide | 150 mg | ClC=1C(=NN(C1C1CC1)C1=C(C=C(C=C1)NC(CC1=NC=CC=C1)=O)F)C(F)(F)F | C20H15ClF4N4O
reactant | 2-(pyridin-2-yl)acetic acid | 0.56 mmol, 97 mg | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{4-[4-chloro-5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-3-fluorophenyl}-2-(pyridin-2-yl)acetamide hydrochloride | 25 mg | Cl.ClC=1C(=NN(C1C1CC1)C1=C(C=C(C=C1)NC(CC1=NC=CC=C1)=O)F)C(F)(F)F | InChI=1S/C20H15ClF4N4O.ClH/c21-17-18(11-4-5-11)29(28-19(17)20(23,24)25)15-7-6-13(9-14(15)22)27-16(30)10-12-3-1-2-8-26-12;/h1-3,6-9,11H,4-5,10H2,(H,27,30);1H
